US08633173B2
[8-(4-Fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 2-chloro-8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine (0.185 g, 0.747 mmol) and 3-(4-methylpiperazin-1-yl)aniline (0.171 g, 0.896 mmol) in a manner analogous to Example 311a and 311b with purification method from 313 to give product (0.155 g, 52%): MP=194-196° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.56 (s, 1H), 8.78 (d, 1H), 8.20 (m, 2H), 7.85 (d, 1H), 7.50 (s, 1H), 7.35 (m, 2H), 7.10 (m, 3H), 6.45 (m, 1H), 3.12 (m, 4H), 2.46 (m, 4H), 2.23 (s, 3H). MS=403 (MH)+.

reactant | 2-chloro-8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine | 0.747 mmol, 0.185 g | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)F)=N1 | C12H7ClFN3
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.896 mmol, 0.171 g | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
product | [8-(4-Fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | FC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C | C23H23FN6
